US05180723
(b) N-tert-Butoxycarbonyl-1-morpholino-2-(S)-amino-4-methylpentane
To a stirred mixture of N-tert-butoxycarbonyl-1-bromo-2-(S)-amino-4-methylpentane 1.76 g, 6.3 mmol) and triethylamine (0.96 ml, 6.9 mmol) in THF (50 ml) at room temperature was added morpholine (0.60 ml, 6.9 mmol). The mixture was stirred overnight and the solvent removed under reduced pressure. The residue was partitioned between saturated aqueous ammonium chloride (50 ml) and ethyl acetate (2×100 ml). The crude N-tert-butoxycarbonyl-1-morpholino-2-(S)-amino-4-methylpentane was then used directly in the next step.

reactant | N-tert-butoxycarbonyl-1-bromo-2-(S)-amino-4-methylpentane | 6.3 mmol, 1.76 g | C(C)(C)(C)OC(=O)N[C@H](CBr)CC(C)C | C11H22BrNO2
reactant | triethylamine | 6.9 mmol, 0.96 ml | C(C)N(CC)CC | C6H15N
reactant | morpholine | 6.9 mmol, 0.60 ml | N1CCOCC1 | C4H9NO
solvent | THF | 50 ml | C1CCOC1 | C4H8O
product | N-tert-Butoxycarbonyl-1-morpholino-2-(S)-amino-4-methylpentane | C(C)(C)(C)OC(=O)N[C@H](CN1CCOCC1)CC(C)C | C15H30N2O3
